Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ventral hernia repair with mesh.

 
History of Present Illness:
___ with multiple medical problems who presents with chronic
abd buldge and N/V. Saw Dr ___ ___ in clinic where she stated
she had pain and ache in bulge when active for weeks, pain
relieved by reduction of buldge. It was decided that she discuss
possibility of surgery w/ her family and readdress after her 
___
birthday and ultimately that she treat mild aching w/ tylenol 
but
if pain increases to go to the ED. 

Today she presents w 1 day of nausea and NBNB emesis. Some
abdominal pain as well. Last meal 2PM day prior to presentation.
Cannot recall passing flatus recently, last BM day prior to
presentation (abnormal for her b/c she has 2 BMs/day). Also has
had recent constipation but otherwise no changes, no blood in
stool. No fevers, chills, night sweats, dysuria/hematuria,
vaginal bleeding. 

At baseline she has good functional status, is able to walk up 1
flight of stairs without problem. She has a caretaker who is
present at the bedside, as are her granddaughter and grandson,
who are her health care proxys, though she is able to make
decisions for herself. She states that she would like an
operation if it would be to save her life. She is DNR but would
like that reversed perioperatively if she went to the operating
room.

 
Past Medical History:
PMHx: HTN, CKD stage 3, DM2, stroke, obesity, vision impairment,
glaucoma, diabetic retinopathy, dementia, macular drusen, 
tremor, dementia, herpes zoster, rectal polyp, HLD, carpel 
tunnel syndrome, some urinary incontinence 

PSHx: appendectomy, hysterectomy, cataract surgery

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Discharge Exam:
Vital Signs: T 99.4 HR 93 BP 125/58 RR 20 95% on RA
Gen: NAD, AAOx3
CV: S1, S2, RRR
Resp: CTAB
Abd: Soft, laparoscopic incisions c/d/i, bandaged
Ext: -c/c/e, no calf tenderness
Neuro: MAE's
 
Pertinent Results:
___ 11:15AM   GLUCOSE-261* UREA N-36* CREAT-1.7* SODIUM-137 
POTASSIUM-4.8 CHLORIDE-104 TOTAL CO2-23 ANION GAP-15
___ 11:15AM   CALCIUM-8.5 PHOSPHATE-3.8 MAGNESIUM-2.2
 
Brief Hospital Course:
The patient presented to pre-op on ___. Pt was 
evaluated by anaesthesia and taken to the operating room for 
ventral hernia repair with mesh overlay. There were no adverse 
events in the operating room; please see the operative note for 
details. 
Pt was extubated, taken to the PACU until stable, then 
transferred to the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral oxycodone, tramadol, 
and acetominophen and the patient was discharged with a 
prescription for tramadol.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO and slowly 
advanced to regular diet which she tolerated well. Patient's 
intake and output were closely monitored.  JP output remained 
serosanguinous throughout admission; the drain was removed prior 
to discharge.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

She will go home with physical therapy and visiting nurse 
assistance as well as a walker supplied by physical therapy for 
assistance with ambulation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Amlodipine 10 mg PO DAILY 
4. irbesartan 75 mg oral daily 
5. Aspirin 81 mg PO DAILY 
6. Pilocarpine 4% 1 DROP BOTH EYES Q6H 
7. brimonidine 0.2 % ophthalmic 1 drop TID 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 
10. Nystatin Cream 1 Appl TP BID 
11. Unknown Unknown Dose

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES TID 
4. Pilocarpine 4% 1 DROP BOTH EYES Q6H 
5. Simvastatin 10 mg PO QPM 
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
7. Senna 8.6 mg PO BID 
8. brimonidine 0.2 % ophthalmic 1 drop TID 
9. Furosemide 20 mg PO DAILY 
10. irbesartan 75 mg ORAL DAILY 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. Nystatin Cream 1 Appl TP BID 
13. Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6 hours Disp #*30 
Tablet Refills:*0
14. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth q6 hours 
Disp #*30 Tablet Refills:*0
15. ___ 40 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
16. Outpatient Physical Therapy
RW-Diagnosis: Gait Unsteadiness, Prognosis: Good, Length of 
Need: Lifetime
Attending ___: Dr. ___ ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
 s/p ventral hernia repair with mesh.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow the recommendations below to ensure a speedy and 
uneventful recovery.
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs.
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
- You may start some light exercise when you feel comfortable.
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.

HOW YOU MAY FEEL:
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during surgery.
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
- You could have a poor appetite for a while. Food may seem 
unappealing.
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.
 
YOUR INCISION:
- Your incision may be slightly red around the edges. This is 
normal.
- If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
- You may gently wash away dried material around your incision.
- It is normal to feel a firm ridge along the incision. This 
will go away.
- Avoid direct sun exposure to the incision area.
- Do not use any ointments on the incision unless you were told 
otherwise.
- You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
- You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
- Over the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluitds and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
-You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directed.
- Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
- Your pain medicine will work better if you take it before your 
pain gets too severe.
- Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
- Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.
 
 
Followup Instructions:
___